US04374067
N-[2-(2-methylamino-2-phenylethyl)phenyl]-2,2-dimethyl-propanamide (155 g, 0.5 mol) was dissolved in 6 N HCl (310 g) and stirred under a nitrogen atmosphere at 100° C. for 28 hours. The reaction mixture was cooled to 23° C. and toluene (200 ml) was added. Stirring was continued until the product had crystallized from the aqueous phase. The product was collected by filtration, washed with toluene (2×50 ml) and dried in vacuo (30 mm) at 60° C. for 60 hours to give N-methyl-2-amino-α-phenylphenethylamine dihydrochloride (139 g, 93% yield). The melting point of the product was 252°-254° C. The organic phase of the filtrate was concentrated in vacuo to give a 58% recovery of trimethylacetic acid. The aqueous phase of the filtrate afforded a second crop of N-methyl-2-amino-α-phenylphenethylamine dihydrochloride (9.3 g, 6%). The total yield of product was 99%.

reactant | N-[2-(2-methylamino-2-phenylethyl)phenyl]-2,2-dimethyl-propanamide | 0.5 mol, 155 g | CNC(CC1=C(C=CC=C1)NC(C(C)(C)C)=O)C1=CC=CC=C1 | C20H26N2O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 6 N, 310 g | Cl | ClH
product | N-methyl-2-amino-α-phenylphenethylamine dihydrochloride | 139 g, 93% yield | Cl.Cl.CNC(CC1=C(C=CC=C1)N)C1=CC=CC=C1 | InChI=1S/C15H18N2.2ClH/c1-17-15(12-7-3-2-4-8-12)11-13-9-5-6-10-14(13)16;;/h2-10,15,17H,11,16H2,1H3;2*1H
